US04478967
Preparatlon of β-Nitrocinnamyl Perfluorooctanoate
β-Nitrocinnamyl alcohol (5.4 g, 0.03 mol) and one equivalent of triethylamine (3.03 g, 0.03 mol) were dissolved in 100 M of toluene. The solution was cooled in an ice bath and perfluorooctanoyl chloride (2.6 g, 0.03 mol) was added dropwise with stirring. The reaction was stirred an addtional two hours and diluted with ether. The reaction was extracted with water and the organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo. The oily product was crystallized from petroleum ether to give yellow prisms, mp 79-81°, IR 1785, 1655, 1535, 1325, and 1200 cm-1. A solution of the material in 95% ethanol showed an absorption of λmax at 302 nm, epsilon=10,800 which rapidly decreased on exposure to the GE H3T7 source. This loss of the 302 nm absorption was accompanied by a decrease in the pH (increased acidity) of the solution as as indicated by methyl red pH indicator.

reactant | β-Nitrocinnamyl alcohol | 0.03 mol, 5.4 g | [N+](=O)([O-])C(=CCO)C1=CC=CC=C1 | C9H9NO3
reactant | triethylamine | 0.03 mol, 3.03 g, one equivalent | C(C)N(CC)CC | C6H15N
reactant | perfluorooctanoyl chloride | 0.03 mol, 2.6 g | FC(C(=O)Cl)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8ClF15O
solvent | toluene | 100 M | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | β-Nitrocinnamyl Perfluorooctanoate | FC(C(=O)OCC=C(C1=CC=CC=C1)[N+](=O)[O-])(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C17H8F15NO4
